### PR TITLE
[Merged by Bors] - feat: add `ENNReal.finStronglyMeasurable_of_measurable`

### PR DESCRIPTION
**Pull request by RemyDegenne**
A measurable function with finite Lebesgue integral can be approximated by simple functions whose support has finite measure.

I created a new file StronglyMeasurable/ENNReal instead of using StronglyMeasurable/Lemmas because those lemmas will be useful in places that should not import things like the Bochner integral.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/StronglyMeasurable/Lemmas.lean [hunk 1]
```diff
@@ -39,6 +39,20 @@ theorem MeasureTheory.MeasurePreserving.aestronglyMeasurable_comp_iff {β : Type
...
+    SimpleFunc.tendsto_eapprox hf_meas⟩
+
+lemma ENNReal.aefinStronglyMeasurable_of_aemeasurable {f : α → ℝ≥0∞} (hf : ∫⁻ x, f x ∂μ ≠ ∞)
+    (hf_meas : AEMeasurable f μ) :
+    AEFinStronglyMeasurable f μ := by
+  have h := ENNReal.finStronglyMeasurable_of_measurable (μ := μ) (f := hf_meas.mk f) ?_
+    hf_meas.measurable_mk
+  · exact ⟨hf_meas.mk f, h, hf_meas.ae_eq_mk⟩
+  · rwa [lintegral_congr_ae hf_meas.ae_eq_mk.symm]
+
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/StronglyMeasurable/Lemmas.lean:55]: Should these be removed now that you have moved them to the other file?

Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Function/StronglyMeasurable/Lemmas.lean]: Sorry about that. I saw the mistake and deleted the lemmas... but in the wrong PR (in a downstream PR).
This is now fixed.

**Comment by sgouezel** [comment]
bors r+
Thanks!
